US04315928
Powdered potassium hydroxide (2.5 g), 4.7 g. 10.045 mole) of S-methyl-N-hydroxythioacetimidate, 0.11 g dicyclohexyl-18-crown-6, and benzene (200 mol) were combined and stirred 0.5 hr. at room temperature. Then 9.4 g (0.045 mole) of N-methyl-N-(diisopropylaminosulfenyl)carbamoyl fluoride were added. The mixure was stirred at room temperature for 1 hr., and then was water washed four times, dried (MgSO4), and the benzene solvent was removed under vacuum. The residue was recrystallized from diisopropyl ether to give 9 g (67.3 percent yield) of S-methyl N-[N'-methyl-N'-(diisopropylaminosulfenyl)carbamoyloxy]thioacetimidate, m.p. 79°-80° C.

reactant | potassium hydroxide | 2.5 g | [OH-].[K+]
reactant | S-methyl-N-hydroxythioacetimidate | C[SH-]C(C)=NO
reactant | benzene | 200 mol | C1=CC=CC=C1 | C6H6
reactant | N-methyl-N-(diisopropylaminosulfenyl)carbamoyl fluoride | 0.045 mole, 9.4 g | CN(C(=O)F)SN(C(C)C)C(C)C | C8H17FN2OS
catalyst | dicyclohexyl-18-crown-6 | 0.11 g | C1CCC2C(C1)OCCOCCOC3CCCCC3OCCOCCO2 | C20H36O6
solvent | water | O | H2O
product | S-methyl N-[N'-methyl-N'-(diisopropylaminosulfenyl)carbamoyloxy]thioacetimidate | 9 g, 67.3 percent yield | CN(C(=O)ON=C(C)SC)SN(C(C)C)C(C)C | C11H23N3O2S2
